US05145958
0.2 mole=41.2 g 3,5-dichloro-4-amino-benzoate were initially introduced into an autoclave together with 250 ml of water. The mixture was heated to 250° C. and stirred at this temperature for eight hours. The product was then recovered by steam distillation. 26 g of 2,6-dichloroaniline were obtained in a purity of 99.8%, corresponding to a yield of 80%.

reactant | 3,5-dichloro-4-amino-benzoate | 41.2 g | ClC=1C=C(C(=O)[O-])C=C(C1N)Cl
solvent | water | 250 ml | O | H2O
product | 2,6-dichloroaniline | 26 g, yield of 80% | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
